US07858640B2
3-amino-4-fluorophenol
A solution of sodium nitrite (17.3 g) in water (40 mL) was added dropwise to a mixture of N-(5-amino-2-fluorophenyl)acetamide (36.7 g), sulfuric acid (50 mL) and water (270 mL) at 0-10° C. The mixture was stirred at 0-10° C. for 20 minutes and then a solution of urea (2.0 g) in water (20 mL) was added and the resulting mixture stirred at 0-10° C. for a further 20 minutes. The mixture was added dropwise over a period 75 minutes to a stirred solution of copper sulfate pentahydrate (131 g) in water (110 mL) at 130° C. and the resulting mixture heated at 130° C. for 2.5 hours. The mixture was cooled in an ice bath and the pH of the solution adjusted to 14 by the addition of 30% aqueous sodium hydroxide solution. The mixture was filtered through hyflo, washing with water. The pH of the filtrate was acidified by the addition of concentrated hydrochloric acid and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure to afford title compound as a brown solid, 22.1 g.

reactant | sodium nitrite | 17.3 g | N(=O)[O-].[Na+]
reactant | N-(5-amino-2-fluorophenyl)acetamide | 36.7 g | NC=1C=CC(=C(C1)NC(C)=O)F | C8H9FN2O
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | urea | 2.0 g | NC(=O)N | CH4N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | water | 110 mL | O | H2O
catalyst | copper sulfate pentahydrate | 131 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 270 mL | O | H2O
product | 3-amino-4-fluorophenol | NC=1C=C(C=CC1F)O | C6H6FNO
